US06413997B1
A. Ethyl 2-chloro-2-(2-fluorobenzoyl)acetate
Sulfuryl chloride (4.25 g, 32 mmol) was added dropwise to a solution ethyl 2-(2-flurobenzoyl)acetate (6.30 g, 30 mmol) in CH2Cl2 (75 mL) at room temperature. No exotherm was observed after 30 minutes, only slight bubbling. After stirring overnight TLC analysis indicated that all of the starting material had been consumed. The reaction mixture was treated with H2O (100 mL). The resultant mixture was stirred for 20 minutes and the phases were separated. The organic phase was washed with H2O (2×100 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 6.85 g (93% yield) of the desired product as an orange oil: 1H NMR (CDCl3) δ8.0-7.9 (m, 1H), 7.6-7.5 (m, 1H), 7.3-7.1 (m, 2H), 5.6 (s, 1H), 4.25 (q, 2H), 1.25 (t, 3H).

reactant | Sulfuryl chloride | 32 mmol, 4.25 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 2-(2-flurobenzoyl)acetate | 30 mmol, 6.30 g | FC1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11FO3
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-chloro-2-(2-fluorobenzoyl)acetate | 6.85 g, 93% yield | ClC(C(=O)OCC)C(C1=C(C=CC=C1)F)=O | C11H10ClFO3
